US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 150 mg (0.505 mmol) of 3-(3-Fluoro-4-methoxy-benzoyl)-1H-quinolin-4-one, 145.3 mg (0.605 mmol) of 2-bromomethyl-6-trifluoromethyl-pyridine, 24.2 mg (0.605 mmol, 60% dispersion in oil), and 1 mL of N,N dimethylformamide. Water was added and the solid was collected by filtration. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane to yield 195.9 mg of 3-(3-Fluoro-4-methoxy-benzoyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one. LC-MSD, m/z for C24H16F4N2O3 [M+H]: 457.11 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.5 min.

reactant | 3-(3-Fluoro-4-methoxy-benzoyl)-1H-quinolin-4-one | 0.505 mmol, 150 mg | FC=1C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=CC1OC | C17H12FNO3
reactant | 2-bromomethyl-6-trifluoromethyl-pyridine | 0.605 mmol, 145.3 mg | BrCC1=NC(=CC=C1)C(F)(F)F | C7H5BrF3N
reactant | N,N dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-(3-Fluoro-4-methoxy-benzoyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | 195.9 mg | FC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C(F)(F)F)C=CC1OC | C24H16F4N2O3
